US08293768B2
Synthesis of 1-(4-methylthiazol-2-yl)imidazolidin-2-one
Following the procedure as described in Example 3, making variations as required to replace ethyl 2-amino-4-methylthiazole-5-carboxylate with 2-amino-4-methylthiazole to react with 2-chloroethyl isocyanate, the title compound was obtained as a colorless solid in 90% yield: 1H NMR (300 MHz, CDCl3) δ 6.41 (s, 1H), 5.79 (br s, 1H), 4.20-4.14 (m, 2H), 3.67-3.61 (m, 2H), 2.29 (s, 3H); MS (ES+) m/z 184.1.1 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
reactant | 2-chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
product | 1-(4-methylthiazol-2-yl)imidazolidin-2-one | 90% yield | CC=1N=C(SC1)N1C(NCC1)=O | C7H9N3OS
